US07723527B2
2-{5-Chloro-2-[4-(1-methyl-piperidin-4-yl)-butoxy]-pyridin-4-yl}-5-fluoro-4-methyl-1H-benzoimidazole
5-Chloro-2-[4-(1-methyl-piperidin-4-yl)-butoxy]-pyridine. To a stirred solution of 4-(1-methyl-piperidin-4-yl)-butan-1-ol (1.5 g, 8.77 mmol, 1.0 equiv) in DMF (10 mL) under an atmosphere of nitrogen, was added 60% sodium hydride (573 mg, 14.3 mmol, 1.5 equiv) portion wise. Once the initial effervescence had subsided, the mixture was heated at 60° C. for 1 h, then was cooled to rt. A solution of 2,5-dichloropyridine (1.42 mg, 9.55 mmol, 1.1 equiv) in DMF (10 mL) was then added and the mixture was stirred for 4 h. The mixture was partitioned between satd. aq. NaHCO3 (20 mL) and chloroform (40 mL). The chloroform layer was dried (Na2SO4), filtered, and concentrated to give a crude mixture, which was purified by column chromatography (silica gel, 0-10% (2 M ammonia in methanol) in dichloromethane) to afford 1.62 g (65%) of a white solid. 1H NMR (400 MHz, CDCl3): 8.07 (dd, J=2.5, 0.4 Hz, 1H), 7.51 (dd, J=8.8, 2.7 Hz, 1H), 6.67 (dd, J=8.8, 0.4 Hz, 1H), 4.27 (t, J=6.6 Hz, 2H), 2.86-2.78 (m, 2H), 2.26 (s, 3H), 1.94-1.60 (m, 7H), 1.52-1.37 (m, 2H), 1.35-1.14 (m, 4H). B. 5-Chloro-2-[4-(1-methyl-piperidin-4-yl)-butoxy]-pyridine-4-carbaldehyde. To a cooled solution (−78° C.) of 2.0 M LDA in heptane/THF (5.74 mL, 11.5 mmol, 2.0 equiv) in THF (10 ML), was added a solution of 5-chloro-2-[4-(1-methyl-piperidin-4-yl)-butoxy]-pyridine (1.62 g, 5.74 mmol, 1.0 equiv) in THF (15 mL) dropwise. After 30 min, DMF (2.22 mL, 28.7 mmol, 5.0 equiv) was added dropwise and the mixture was stirred for an additional 20 min at −78° C. The mixture was warmed to 0° C. and quenched with satd. aq. NaHCO3 (5 mL). The mixture was warmed to rt and extracted with chloroform (2×20 mL). The combined extracts were dried (Na2SO4), filtered, and concentrated to give 968 mg of a crude residue, which was used without purification. 1H NMR (400 MHz, CDCl3): 10.4 (s, 1H), 8.26 (s, 1H), 7.13 (s, 1H), 4.31 (t, J=6.6 Hz, 2H), 2.87-2.80 (m, 2H), 2.25 (s, 3H), 1.99-1.60 (m, 7H), 1.51-1.38 (m, 2H), 1.43-1.20 (m, 4H). C. 2-{5-Chloro-2-[4-(1-methyl-piperidin-4-yl)-butoxy]-pyridin-4-yl}-5-fluoro-4-methyl-1H-benzoimidazole. This compound was prepared by the method described in General Procedure 3 using 5-chloro-2-[4-(1-methyl-piperidin-4-yl)-butoxy]-pyridine-4-carbaldehyde (45 mg, 0.15 mmol, 1.0 equiv), 4-fluoro-3-methyl-benzene-1,2-diamine (23 mg, 0.17 mmol, 1.1 equiv) and Na2S2O5 (37 mg, 0.20 mmol, 1.3 equiv). Purification by Method 2 afforded 12 mg (18%) of the title compound. MS (electrospray): mass calculated for C23H28ClFN4O, 430.19; m/z found, 431.4 [M+H]+. 1H NMR (400 MHz, CD3OD): 8.30 (s, 1H), 7.45 (dd, J=8.9, 4.5 Hz, 1H), 7.22-7.19 (m, 1H), 7.07 (dd, J=10.2, 8.9 Hz 1H), 4.31 (t, J=6.6 Hz, 2H), 2.88-2.81 (m, 2H), 2.53 (s, 3H), 2.24 (s, 3H), 2.05-1.90 (m, 2H), 1.84-1.66 (m, 4H), 1.55-1.42 (m, 2H), 1.37-1.15 (m, 5H).

reactant | 5-Chloro-2-[4-(1-methyl-piperidin-4-yl)-butoxy]-pyridine-4-carbaldehyde | ClC=1C(=CC(=NC1)OCCCCC1CCN(CC1)C)C=O | C16H23ClN2O2
reactant | LDA | 2.0 M | [Li+].CC(C)[N-]C(C)C
reactant | heptane THF | 11.5 mmol, 5.74 mL, 2.0 equiv | CCCCCCC.C1CCOC1
reactant | 5-chloro-2-[4-(1-methyl-piperidin-4-yl)-butoxy]-pyridine | 5.74 mmol, 1.62 g, 1.0 equiv | ClC=1C=CC(=NC1)OCCCCC1CCN(CC1)C | C15H23ClN2O
reactant | DMF | 28.7 mmol, 2.22 mL, 5.0 equiv | CN(C)C=O | C3H7NO
reactant | 5-chloro-2-[4-(1-methyl-piperidin-4-yl)-butoxy]-pyridine-4-carbaldehyde | 0.15 mmol, 45 mg, 1.0 equiv | ClC=1C(=CC(=NC1)OCCCCC1CCN(CC1)C)C=O | C16H23ClN2O2
reactant | 4-fluoro-3-methyl-benzene-1,2-diamine | 0.17 mmol, 23 mg, 1.1 equiv | FC=1C(=C(C(=CC1)N)N)C | C7H9FN2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-{5-Chloro-2-[4-(1-methyl-piperidin-4-yl)-butoxy]-pyridin-4-yl}-5-fluoro-4-methyl-1H-benzoimidazole | 12 mg, 18% | ClC=1C(=CC(=NC1)OCCCCC1CCN(CC1)C)C1=NC2=C(N1)C=CC(=C2C)F | C23H28ClFN4O
